2200-08-30 09:06:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   86 yo F admitted for dyspnea, cough, pink sputum. In rehab until 2
   weeks ago, came home with ?URI symptoms, neice who lives with her also
   became ill with similar symptoms. Hypotensive in ED to 70's, 2L IVF, no
   response, on levophed, CVL placed. On home O2 for unclear reasons; was
   started on diuretics for ?CHF on last admission.
   Overnight, UOP was low, 1L without change. CXR showed minimal volume
   overload, and with this bolus, she flashed, tachypneic to 40's. Lasix
   20mg, then 40mg, morphine, ativan, was able to be weaned off levophed,
   briefly in this setting. Breathing improved, then needed to be
   restarted on levophed.
   Currently on 4L by nasal cannula. Kept on vanco/[**Last Name (un) 614**] here overnight.
   24 Hour Events:
 PRESEP CATHETER - START [**2200-8-29**] 08:13 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2200-8-30**] 12:00 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2200-8-30**] 02:52 AM
   Morphine Sulfate - [**2200-8-30**] 02:53 AM
   Other medications:
   MVI
   Vanco
   Iron
   Simvastatin
   Sertraline
   Digoxin
   Plavix
   Famotadine
   Heparin subcut TID
   Olanzapine
   Guaifenisin prn
   Tylenol prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea, sputum production
   Flowsheet Data as of  [**2200-8-30**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.7
C (98
   HR: 87 (87 - 142) bpm
   BP: 86/54(59) {63/18(28) - 120/74(80)} mmHg
   RR: 22 (18 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (8 - 10)mmHg
   Total In:
                                                                     25 mL
                                                                  1,224 mL
   PO:
   TF:
   IVF:
                                                                     25 mL
                                                                  1,224 mL
   Blood products:
   Total out:
                                                                    140 mL
                                                                    930 mL
   Urine:
                                                                    140 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -115 mL
                                                                    294 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), S3, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Dullness : none), (Breath Sounds: Crackles : up to scapulae, Wheezes :
   right sided expiratory wheeze, Diminished: overall, No(t) Rhonchorous:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   245 K/uL
   133 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.3 mEq/L
   14 mg/dL
   99 mEq/L
   138 mEq/L
   26.6 %
   13.6 K/uL
        [image002.jpg]
                             [**2200-8-30**]  05:09 AM
   WBC
   13.6
   Hct
   26.6
   Plt
   245
   Cr
   1.0
   Glucose
   133
   Other labs: Lactic Acid:1.4 mmol/L, Ca++:7.5 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.9 mg/dL
   Imaging: admission CXR - possible mild volume overload, no obvious
   consolidative process.
   CTA - diffuse ground glass opacities, tiny right sided pleural effusion
   (did not visualize apices).
   CXR overnight - bilateral pulmonary edema
   Microbiology: Respiratory Viral Screen
   Blood pending
   Urine pending
   Assessment and Plan
   86 yo F with hypoxic respiratory distress and hypotension.
 HYPOXEMIA - on home O2 at 2L unclear reasons. Diffuse ground glass
   opacities could represent infectious etiologies such as viral or
   atypical infection, noninfectious etiologies include hypersensitivity
   pneumonitis, new interstitial lung ds
 less likely. There is also
   evidence of acute decompensated heart failure - TTE with normal LVEF,
   likely acute on chronic diastolic dysfunction in the setting of volume
   overload and 2+MR, exacerbated by tachycardia when patient becomes
   agitated.
   Try to wean O2; lasix prn and caution with IVF
   PFT's as outpatient
   Follow up CT scan in several weeks to evaluate for
   resolution/progression
 HYPOTENSION (NOT SHOCK)
 on levophed at this time. Difficult to
   volume resuscitate given propensity for flash pulmonary edema. No clear
   source at this time, could be septic shock - patient's prodrome seems
   consistent with viral etiology vs. atypical bacteria. Lactate wnl.
   Cardiogenic shock should be considered given rapid heart failure onset,
   but cardiac enzymes in ED were negative. Also could be not associated
   with infectious etiology at all- could be secondary to blood loss (hct
   drop), hypovolemia, neurogenic (but unlikely).
   vanco, [**Last Name (un) 614**] for empiric coverage - adding back azithro for atypical
   coverage
   monitor cultures
 adding on legionella
   central venous sat 65
 can give blood slowly
   CVP - [**7-18**]
   guaiac stools
   holding diuretics unless acutely short of breath
   aline to be placed
   Anemia - likely has an iron deficiency anemia, but now has acute drop -
   no clear sign of bleed - guaiac stools
   Confusion - attributed on last admission to occipital strokes, could be
   worse in the setting of acute illness
   Afib - new as of last admission, but caution with rate control given
   hypotension; continue dig
   ARF - resolving, likely prerenal azotemia
   ICU Care
   Nutrition:
   Comments: Regular
   Glycemic Control:
   Lines:
   Presep Catheter - [**2200-8-29**] 08:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2200-08-31 09:25:00 Physician Attending Progress Note
Chief Complaint: Hypotension, fevers, agitation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86 yo F admitted with hypoxia, hypotension, fevers and afib with RVR
   with complicated volume status
   24 Hour Events:
 ULTRASOUND - At [**2200-8-30**] 09:50 AM - us of right leg - negative
 EKG - At [**2200-8-30**] 01:00 PM
 ARTERIAL LINE - START [**2200-8-30**] 04:00 PM
 STOOL CULTURE - At [**2200-8-30**] 05:37 PM
   Tachypneic early in the day, remained high 90's on 4L by nasal cannula,
   responded early to lasix, given morphine with some response in heart
   rate. CXR at that time showed worsened pulmonary edema.
   weaned off pressors, remained stable overnight
   patient started on diltiazem gtt for rapid afib with good response - HR
   down to 70's-80's
   not much response to lasix gtt and [**Last Name (LF) **], [**First Name3 (LF) **] stopped. UOP dropped later
   in the evening. given 250cc [**First Name3 (LF) **].
   ativan given for agitation with success
   without oxygen, patient's sats drop to 90-91%; she is requesting high
   amounts of O2 for dyspnea
   C diff positive
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2200-8-30**] 07:30 PM
   Meropenem - [**2200-8-31**] 06:00 AM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Metoprolol - [**2200-8-30**] 04:00 PM
   Morphine Sulfate - [**2200-8-30**] 04:29 PM
   Furosemide (Lasix) - [**2200-8-30**] 10:06 PM
   Haloperidol (Haldol) - [**2200-8-31**] 01:10 AM
   Other medications:
   MVI
   Iron
   Simvastatin
   Zoloft
   Digoxin
   plavix
   Olanzapine
   Famotadine
   Heparin subcut TID
   azithromycin
   meropenem
   metoprolol PO TID
   thiamine
   Vanco - PO
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2200-8-31**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36
C (96.8
   HR: 71 (71 - 125) bpm
   BP: 91/42(56) {88/42(-8) - 127/64(85)} mmHg
   RR: 20 (18 - 42) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 58 kg (admission): 60 kg
   CVP: 11 (7 - 23)mmHg
   Total In:
                                                                  2,265 mL
                                                                    479 mL
   PO:
                                                                    220 mL
   TF:
   IVF:
                                                                  2,045 mL
                                                                    479 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    120 mL
   Urine:
                                                                  1,750 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    515 mL
                                                                    359 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 100%
   ABG: 7.34/53/255/24/1
   Physical Examination
   General Appearance:  Mild to moderate respiratory distress without
   supplemental oxygen
   Cardiovascular: (S1: Normal), (S2: Normal), irregularly irregular
   Peripheral Vascular: wwp
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar ), exp wheezes
   Skin:  No rash
   Neurologic: agitated, nonfocal exam, moving ext x 4
   Labs / Radiology
   8.2 g/dL
   198 K/uL
   121 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.9 mEq/L
   18 mg/dL
   100 mEq/L
   137 mEq/L
   24.6 %
   9.0 K/uL
        [image002.jpg]
                             [**2200-8-30**]  05:09 AM
                             [**2200-8-30**]  03:42 PM
                             [**2200-8-30**]  05:20 PM
                             [**2200-8-31**]  04:16 AM
   WBC
   13.6
   9.0
   Hct
   26.6
   28.2
   24.6
   Plt
   245
   198
   Cr
   1.0
   1.1
   1.3
   TropT
   0.04
   0.05
   TCO2
   30
   Glucose
   133
   152
   121
   Other labs: CK / CKMB / Troponin-T:133/5/0.05, Lactic Acid:1.0 mmol/L,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Imaging: no cxr from today
   Microbiology: c diff positive
   blood cultures pending
   urine negative; urine legionella negative
   unable to obtain sputum
   viral screen pending
   Assessment and Plan
   86 yo F admitted with hypoxia, hypotension, fevers and afib with RVR
   with complicated volume status.
   Hypoxic Respiratory Distress - likely secondary to pulmonary edema,
   however, although low likelihood, need to consider ?ARDS type picture
   evolving. Ground glass initially on CT scan suggesting viral or
   atypical infection. Wheezing on exam could be cardiac wheeze, possible
   underlying obstruction (carries asthma diagnosis since childhood). PE
   was also on differential
 LENI was negative.
   - continue atypical coverage as discussed below
   - nebs
   - wean O2
   - rate control to encourage forward flow; holding diuresis for now. ?
   add afterload reduction to encourage forward flow
   - consider CTA if renal failure stabilizes
   Acute Respiratory Acidosis - possibly due to rapid shallow breathing
   and increased dead space ventilation, although ?underlying obstructive
   disease
   Shock - c diff positive. Off pressors. Diffuse ground glass opacities
   on CT scan, cultures pending. Broadly covered at this point for severe
   CAP, atypicals, and cdiff.
   - continue azithro
   - stop vanco/meropenem, as bacterial infection seems unlikely at this
   time
   - continue PO vancomycin
   - monitor cultures
   - attempt to obtain sputum cultures, viral swab pending
   - check central venous O2 sat, lactate
 use CvO2 sat to guide volume
   management
   - pressures remain stable, however, fluid status is difficult to manage
   Afib with RVR - responding well to dilt gtt at low dosing - transition
   to oral meds today without metoprolol
   - no anticoagulation per risk of bleed
   Acute Renal Failure - up to a creatinine of 1.3 today - prerenal
   azotemia most likely vs. ATN + contrast nephropathy from CTA; UOP has
   dwindled
   -urine lytes
   -sediment
   -check dig level
   Anemia - slightly below baseline, will transfuse 1 unit today, guaiac
   stools negative
   Mental Status Change/Acute Agitation - ativan 0.5mg seems to work very
   well for her without compromising respiratory status or worsening
   agitation
   - continue zyprexa, zoloft
   ICU Care
   Nutrition:
   Comments: Regular
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Presep Catheter - [**2200-8-29**] 08:13 PM
   20 Gauge - [**2200-8-30**] 08:08 AM
   Arterial Line - [**2200-8-30**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2200-09-01 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2200-8-31**] 10:38 AM
 ULTRASOUND - At [**2200-8-31**] 04:30 PM
   Renal
   - ativan works for agitation. Haldol does not work for agitation.
   - tenous fluid status - has flashed with fluid boluses. MAPs are
   probably low at baseline. Will monitor SvO2.
   - transfused 1 unit pRBCs for Hct 24.6
   - SvO2: 59 at 5pm
   - UOP: 10-20cc/hr since [**8-30**] at 1600. On maintenance fluids.
   - Renal US: read pending
   - Urine lytes - pt is pre-renal (Fe urea is 13; <35 is prerenal); Eo's
   negative (AIN less likely), Hyaline casts seen (26) - can be due to low
   flow/dehydration. Fe urea this AM is 2%
   - Dig 1.4 (therapeutic)
   -started captopril 3.125mg for afterload reduction b/c she has AS
   -Transfused 1 unit blood for Hct 28.6, SvO2 59 and UOP 10-20cc/hr in
   hopes she will keep fluid in her vessels and increase O2 carrying
   capacity --> SvO2 now 85; post transfusion hct: not yet drawn
   -oliguric (10cc/6hrs): receiving blood; 40mg IV lasix given (with 40 cc
   UOP)
   -?cards vs renal c/s
   Allergies:
   Penicillins
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2200-8-31**] 06:00 AM
   Vancomycin - [**2200-8-31**] 08:25 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2200-8-31**] 08:36 AM
   Lorazepam (Ativan) - [**2200-8-31**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2200-8-31**] 04:01 PM
   Furosemide (Lasix) - [**2200-9-1**] 04:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-9-1**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 103 (71 - 103) bpm
   BP: 87/43(58) {87/41(56) - 123/57(77)} mmHg
   RR: 28 (19 - 38) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60.2 kg (admission): 60 kg
    CVP: 12 (11 - 17)mmHg
   Mixed Venous O2% Sat: 59 - 85
   Total In:
                                                                  2,671 mL
                                                                    244 mL
   PO:
                                                                    450 mL
   TF:
   IVF:
                                                                  1,871 mL
                                                                    244 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    250 mL
                                                                    100 mL
   Urine:
                                                                    250 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,421 mL
                                                                    144 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: 7.43/39/68/25/1
   Physical Examination
   General: Alert, oriented to person, place and month but not date or
   year
   Lungs: diffuse bilateral crackles and expiratory wheezes, no rhonchi
   CV: Tachycardic, s1 + s2, II/VI HSM at apex, no rubs or gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley draining clear yellow urine
   Ext: warm, well perfused, 1+ pulses, 1+ edema in rigth lower extremity,
   no cyanosis or edema
   Labs / Radiology
   215 K/uL
   9.8 g/dL
   115 mg/dL
   1.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   23 mg/dL
   105 mEq/L
   140 mEq/L
   29.7 %
   9.2 K/uL
        [image002.jpg]
                             [**2200-8-30**]  05:09 AM
                             [**2200-8-30**]  03:42 PM
                             [**2200-8-30**]  05:20 PM
                             [**2200-8-31**]  04:16 AM
                             [**2200-8-31**]  10:36 AM
                             [**2200-8-31**]  04:33 PM
                             [**2200-9-1**]  04:30 AM
   WBC
   13.6
   9.0
   8.7
   9.2
   Hct
   26.6
   28.2
   24.6
   28.6
   29.7
   Plt
   245
   198
   193
   215
   Cr
   1.0
   1.1
   1.3
   1.8
   TropT
   0.04
   0.05
   TCO2
   30
   27
   Glucose
   133
   152
   121
   115
   Other labs: CK / CKMB / Troponin-T:133/5/0.05, Differential-Neuts:87.3
   %, Lymph:7.0 %, Mono:5.2 %, Eos:0.4 %, Lactic Acid:0.9 mmol/L, Ca++:8.0
   mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   .
   C diff
 positive
   UCx ([**8-29**]) - negative
   BCx ([**8-29**])
 pending
   MRSA screen
 pending
   Urine legionella
 negative
   Influenza
 pending
   .
   [**8-31**]- Renal ultrasound: pending read
   Assessment and Plan
   86 year old female with a past medical history of occipital stroke with
   memory difficulties and atrial fibrillation who presents from home with
   [**Month/Year (2) **] for one week found in the emergency room to be hypotensive to the
   80s sysotlic non-responsive to fluid challenge.
   Septic Shock:  Etiology unclear.  [**Name2 (NI) **] has been off pressors since 2
   PM [**8-30**].  C. diff found to be positive, but does not explain CT chest
   findings of ground glass opacities.    Will recheck ScVO2 today for
   fluid management.  Random cortisol of 24.6 argues against adrenal
   insufficiency.  At this time with hypotension, low grade fevers and
   tachycardia concern for sepsis although source is unclear.  History of
   [**Month/Year (2) **], rhinorrhea sore throat, and ground glass opacities suggesting of
   a viral upper respiratory tract infection for which influenza and PCP
   would be in the differential.   Other considerations include
   hypotension secondary to dehydration in the setting of viral illness
   and diuretic use.  Cardiogenic shock is unlikely given lack of cardiac
   symptoms and normal EKG.  Currently with mildly decreased urine ouput,
   normal lactate, mild acute renal failure and confusion but unresponsive
   to fluid challenge.
   - d/c vancomycin, meropenem
   - continue azithromycin for atypical PNA coverage
   - follow blood cultures
   - CVP goal [**7-18**], manage IVF using central venous O2 sat
   - f/u influenza swab
   - given the occasional [**Last Name (LF) **], [**First Name3 (LF) **] send for a sputum culture
   - will hold metoprolol and bumetanide
   Hypoxia:  Patient with persistent oxygen requirement since her recent
   hospitalization despite no known primary lung disease.  On presentation
   she was 91% on 2L and since fluid resuscitation has required 3-4L with
   saturations in the high 90s.  Evidence of mild interstial edema on exam
   but does not appear significant enough to account for oxygen
   requirement. No evidence of pulmonary embolism on CTA.  No signs of
   hypercarbia on VBG.  Pulmonary edema likely due to cardiogenic causes
   as patient has moderate aortic stenosis.  Also on differential is
   influenza, PCP, [**Name10 (NameIs) 9614**] lung disease, ARDS secondary to sepsis.
   - holding home diuretics given hypotension
   - monitor for signs of volume overload
   - f/u influenza swab
   - outpatient pulmonary function tests
   - ABGs to assess oxygenation
   - nebulizers PRN
   Anemia:  Known iron deficiency anemia with baseline hematocrit 30.  Hct
   24.6 today.  No active sites of bleeding.  Guaiac negative.
   - transfuse 1 unit of pRBCs to improve hypotension and anemia
   - trend hematocrit
   - increase iron supplements to [**Hospital1 7**]
   Confusion:  Patient with waxing and [**Doctor Last Name 533**] mental status at home.
   Current exam consistent for delerium with primary aspect of
   disorientation with non-focal neurologic exam.  Patient with known
   occipital infarctions thought to be secondary to cardioembolic
   phenomenon.
   - continue home zyprexa and sertraline
   - monitor mental status
   - frequent orientation
   - optimize sleep wake cycle
   - limit medications that affect mental status as much as possible
   Atrial Fibrillation:  Rhythm currently in atrial fibrillation,
   controlled at 70s-90s on dilt and metoprolol.  No chest pain or
   shortness of breath.
   - continue digoxin, f/u digoxin levels this AM
   - discontinue metoprolol
   - transition to PO dilt TID
   Acute Renal Failure:  Creatining trending up at 1.3 today.  Likely
   prerenal in the setting of what appears to be septic shock, low UOP.
   ATN still remains in differential.
   - monitor urine ouput and creatinine
   - renally dose medications
   - urine lytes, UA
   - check urine sediment
   Diastolic Heart Failure: Patient diagnosed with acute on chronic
   diastolic heart failure during recent hospitalization although her
   response to diuretics was unclear and she does not have a history of
   hypotension.  Echocardiogram with preserved ejection fraction.  She is
   on bumetanide as an outpatient.
   - hold diuretics
   - hold metoprolol
   Right lower extremity edema:  No DVT shown on ultrasound
   Cerebrovascular Disease:  s/p occipital stroke in [**2200-6-9**] thought to
   be secondary to cardioembolic disease.
   - continue plavix
   - continue high dose statin
   - monitor neurologic exam
   FEN: IVF fluid management based on central venous O2 sats, replete
   electrolytes, regular diet
   Prophylaxis: Subutaneous heparin, famotidine
   Access: peripherals, RIJ
   Code:  DNR/DNI (discussed with niece)
   Communication: Patient, neice [**Name (NI) 322**] [**Name (NI) 885**] [**Telephone/Fax (1) 8206**]
   Disposition: ICU care for now
   ICU Care
   Nutrition:  Regular diet
   Glycemic Control:  monitoring
   Lines:
   Presep Catheter - [**2200-8-29**] 08:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:  n/a
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition: ICU

2200-09-01 11:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains dyspneic.
   Variable tolerance to mask non-invasive ventilation.
   Heart rate control improved with Diltiazem infusion --> then to PO.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2200-8-31**] 06:00 AM
   Vancomycin - [**2200-8-31**] 08:25 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2200-8-31**] 12:00 PM
   Furosemide (Lasix) - [**2200-9-1**] 04:38 AM
   Famotidine (Pepcid) - [**2200-9-1**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2200-9-1**] 09:00 AM
   Morphine Sulfate - [**2200-9-1**] 09:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-9-1**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 120 (79 - 120) bpm
   BP: 112/55(75) {87/41(58) - 124/63(84)} mmHg
   RR: 26 (19 - 38) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60.2 kg (admission): 60 kg
   CVP: 21 (10 - 21)mmHg
   Mixed Venous O2% Sat: 59 - 85
   Total In:
                                                                  2,671 mL
                                                                    562 mL
   PO:
                                                                    450 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,871 mL
                                                                    382 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    250 mL
                                                                    206 mL
   Urine:
                                                                    250 mL
                                                                    206 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,421 mL
                                                                    356 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: 7.34/41/78.[**Numeric Identifier 181**]/25/-3
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.8 g/dL
   215 K/uL
   115 mg/dL
   1.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   23 mg/dL
   105 mEq/L
   140 mEq/L
   31.7 %
   9.2 K/uL
        [image002.jpg]
                             [**2200-8-30**]  05:09 AM
                             [**2200-8-30**]  03:42 PM
                             [**2200-8-30**]  05:20 PM
                             [**2200-8-31**]  04:16 AM
                             [**2200-8-31**]  10:36 AM
                             [**2200-8-31**]  04:33 PM
                             [**2200-9-1**]  04:30 AM
                             [**2200-9-1**]  10:07 AM
                             [**2200-9-1**]  10:29 AM
   WBC
   13.6
   9.0
   8.7
   9.2
   Hct
   26.6
   28.2
   24.6
   28.6
   29.7
   31.7
   Plt
   245
   198
   193
   215
   Cr
   1.0
   1.1
   1.3
   1.8
   TropT
   0.04
   0.05
   TCO2
   30
   27
   23
   Glucose
   133
   152
   121
   115
   Other labs: CK / CKMB / Troponin-T:133/5/0.05, Differential-Neuts:87.3
   %, Lymph:7.0 %, Mono:5.2 %, Eos:0.4 %, Lactic Acid:0.9 mmol/L, Ca++:8.0
   mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   86 yo F with hypoxic respiratory distress and hypotension.
   HYPOXEMIA -- attributed to diffuse ground glass opacities, pulmonary
   edema.  Less likely atypical pneumonia.  Plan continue supplimental
   oxygen, consider non-invasive ventilation.
   DIFFUSE PULMONARY INFILTRATES -- attributed to pulmonary edema
   primarily, presumed cardiogenic, but may be non-cardiogenic (ARDS).
   Doubt pneumonia (atypical).  Plan continue to treat as outlined,
   intially focus on cardiogenic pulmonary edema.
   CHF -- concern for cardiac decompensation in setting of sepsis.  Check
   echo to assess Aortic Valve (near critial on most recent) and LV
   function.  Cardiology to assess.
   SEPSIS -- initial response to resussitation.  Continue antimicrobials,
   including Flagyl.
   HYPOTENSION -- previously required levophed - remains off.  BP MAP
   acceptable.  Monitor.
   A-FIB -- good rate control on Diltiazem infusion.  Monitor.
   AORTIC STENOSIS
 subcritical .  [**Month (only) 51**] be contributing to poor or
   compromised forward flow.  Repeat echo.
   C. DIFF ENTEROCOLITIS -- continue Flagyl.
   ANEMIA -- improved with PRBC transfusion.  Improved cardiac function as
   estimated by SvO2.
   CONFUSION --  attributed on last admission to occipital strokes, could
   be worse in the setting of acute illness
    ACUTE RENAL FAILURE -- evidence for prerenal azotemia, concern this
   represents poor or limited forward cardiac flow.   Would check cardiac
   echo to assess LV function.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2200-8-29**] 08:13 PM
   20 Gauge - [**2200-8-30**] 08:08 AM
   Arterial Line - [**2200-8-30**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   Telephone conversation with Neice (and health care proxy), [**Name (NI) 96**]
   [**Name (NI) 885**].  Updated medical condition, and answered all questions.
   Understands the patient is critically ill.  Confirms DNR/DNI.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2200-9-1**] 16:59 ------

2200-09-02 09:45:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, sepsis.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Somewhat less dyspnea this AM.  More talkative.
   Initiated lasix infusion early this AM, and tolerating with good
   effect.
   Remains on Diltiazem infusion, with good HR control.
   Remains somnulant and delirious.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2200-8-31**] 06:00 AM
   Vancomycin - [**2200-8-31**] 08:25 PM
   Infusions:
   Diltiazem - 10 mg/hour
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2200-9-1**] 09:47 AM
   Furosemide (Lasix) - [**2200-9-1**] 01:00 PM
   Famotidine (Pepcid) - [**2200-9-2**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2200-9-2**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-9-2**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.7
C (96.3
   HR: 74 (67 - 120) bpm
   BP: 115/45(66) {92/41(57) - 126/62(82)} mmHg
   RR: 24 (8 - 33) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60.2 kg (admission): 60 kg
   CVP: 11 (9 - 21)mmHg
   Total In:
                                                                  1,129 mL
                                                                    504 mL
   PO:
                                                                    180 mL
   TF:
   IVF:
                                                                    729 mL
                                                                    404 mL
   Blood products:
   Total out:
                                                                  1,206 mL
                                                                    945 mL
   Urine:
                                                                  1,106 mL
                                                                    945 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -77 mL
                                                                   -441 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: 7.40/34/115/24/-2
   PaO2 / FiO2: 192
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : basilar, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.8 g/dL
   210 K/uL
   117 mg/dL
   2.0 mg/dL
   24 mEq/L
   3.5 mEq/L
   26 mg/dL
   103 mEq/L
   138 mEq/L
   30.0 %
   8.1 K/uL
        [image002.jpg]
                             [**2200-8-31**]  04:33 PM
                             [**2200-9-1**]  04:30 AM
                             [**2200-9-1**]  10:07 AM
                             [**2200-9-1**]  10:29 AM
                             [**2200-9-1**]  02:41 PM
                             [**2200-9-1**]  05:04 PM
                             [**2200-9-1**]  05:15 PM
                             [**2200-9-1**]  06:58 PM
                             [**2200-9-2**]  04:34 AM
                             [**2200-9-2**]  05:23 AM
   WBC
   8.7
   9.2
   8.1
   Hct
   28.6
   29.7
   31.7
   30.0
   Plt
   193
   215
   210
   Cr
   1.8
   1.8
   2.0
   TCO2
   23
   24
   25
   23
   22
   Glucose
   115
   119
   117
   Other labs: PT / PTT / INR:14.1/32.6/1.2, CK / CKMB /
   Troponin-T:133/5/0.05, Differential-Neuts:87.3 %, Lymph:7.0 %, Mono:5.2
   %, Eos:0.4 %, Lactic Acid:1.1 mmol/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   86 yo F with hypoxic respiratory distress and sepsis (C. diff).
   HYPOXEMIA -- attributed to diffuse ground glass opacities, pulmonary
   edema.  Less likely atypical pneumonia.  Plan continue supplimental
   oxygen, consider non-invasive ventilation.
   DIFFUSE PULMONARY INFILTRATES -- attributed to pulmonary edema
   primarily, presumed cardiogenic, (but may be component of
   non-cardiogenic, ARDS).  Doubt pneumonia (atypical).  Plan continue to
   treat as outlined, intially focus on cardiogenic pulmonary edema.
   CHF -- concern for cardiac decompensation in setting of sepsis.  Echo
   demonstrates perhaps worsening of Aortic stenosis (near critial on most
   recent) and LV function.  Cardiology to assess.
   SEPSIS -- Attributed to C. diff.  Responsed to resussitation.  Continue
   antimicrobials, including Flagyl.
   HYPOTENSION -- previously required levophed - remains off.  BP MAP
   acceptable.  Monitor.  Maintain MAP >60 mmHg.
   A-FIB -- good rate control on Diltiazem infusion. Tachycardia may have
   contributed to pulmonary edema.   Monitor.  Hope to transition to PO
   diltiazem.
   RENAL FAILURE -- acute, likely attributed to hypotensive insult in
   setting of sepsis.
   AORTIC STENOSIS
 subcritical .  [**Month (only) 51**] be contributing to poor or
   compromised forward flow.  Repeat echo.
   C. DIFF ENTEROCOLITIS -- continue Flagyl.
   ANEMIA -- improved with PRBC transfusion.  Improved cardiac function as
   estimated by SvO2.
   CONFUSION --  attributed on last admission to occipital strokes, could
   be worse in the setting of acute illness
    ACUTE RENAL FAILURE -- evidence for prerenal azotemia, concern this
   represents poor or limited forward cardiac flow.   Would check cardiac
   echo to assess LV function.
   NUTRITIONAL SUPPORT
 initiate TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2200-8-29**] 08:13 PM
   20 Gauge - [**2200-8-30**] 08:05 AM
   Arterial Line - [**2200-8-30**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2200-09-03 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Goal diuresis: -1L, achieved -1L at 11PM
   -changed to PO diltiazem from dilt drip with good HR control
   -able to take food PO
   -O2 requirement increased to 80% on facemask overnight
   Allergies:
   Penicillins
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2200-9-2**] 09:36 PM
   Infusions:
   Furosemide (Lasix) - 16 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2200-9-2**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2200-9-2**] 11:30 PM
   Morphine Sulfate - [**2200-9-2**] 11:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-9-3**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.7
C (96.3
   HR: 79 (67 - 95) bpm
   BP: 114/76(93) {94/42(59) - 136/76(93)} mmHg
   RR: 19 (19 - 32) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60.2 kg (admission): 60 kg
   Height: 65 Inch
    CVP: 11 (11 - 17)mmHg
   Total In:
                                                                  1,572 mL
                                                                    279 mL
   PO:
                                                                    360 mL
   TF:
   IVF:
                                                                    952 mL
                                                                    239 mL
   Blood products:
   Total out:
                                                                  2,560 mL
                                                                    735 mL
   Urine:
                                                                  2,560 mL
                                                                    735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -988 mL
                                                                   -456 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: 7.37/47/92.[**Numeric Identifier 132**]/25/0
   PaO2 / FiO2: 155
   Physical Examination
   General: Breathing heavily on high flow mask, difficult to understand,
   somnolent
   Lungs: mild bibasalar crackles, diffuse end expiratory wheezes
   CV: Tachycardic, s1 + s2, II/VI HSM at apex, no rubs or gallops
   although difficult to assess
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 1+ pulses, 1+ edema in right lower extremity,
   no cyanosis or edema
   Labs / Radiology
   229 K/uL
   9.8 g/dL
   131 mg/dL
   1.9 mg/dL
   25 mEq/L
   3.6 mEq/L
   26 mg/dL
   101 mEq/L
   138 mEq/L
   29.5 %
   8.6 K/uL
        [image002.jpg]
                             [**2200-9-1**]  10:29 AM
                             [**2200-9-1**]  02:41 PM
                             [**2200-9-1**]  05:04 PM
                             [**2200-9-1**]  05:15 PM
                             [**2200-9-1**]  06:58 PM
                             [**2200-9-2**]  04:34 AM
                             [**2200-9-2**]  05:23 AM
                             [**2200-9-2**]  04:35 PM
                             [**2200-9-3**]  04:00 AM
                             [**2200-9-3**]  04:12 AM
   WBC
   8.1
   8.6
   Hct
   30.0
   29.5
   Plt
   210
   229
   Cr
   1.8
   2.0
   2.1
   1.9
   TCO2
   23
   24
   25
   23
   22
   28
   Glucose
   119
   117
   147
   131
   Other labs: PT / PTT / INR:14.2/30.9/1.2, CK / CKMB /
   Troponin-T:133/5/0.05, Differential-Neuts:87.3 %, Lymph:7.0 %, Mono:5.2
   %, Eos:0.4 %, Lactic Acid:1.1 mmol/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.0 mg/dL
   .
   [**8-29**] Blood cx pending
   No new CXR
   Assessment and Plan
   86 year old female with a past medical history of occipital stroke with
   memory difficulties and atrial fibrillation who presents from home with
   [**Month/Year (2) **] for one week found in the emergency room to be hypotensive to the
   80s sysotlic non-responsive to fluid challenge.
   Respiratory Distress:  Now on high flow mask with improving lung exam.
   She diuresed well with lasix drip overnight.  Echo basically unchanged
   from [**Month (only) 807**] without progression of valvular disease which suggests her
   pulmonary edema was prompted by her tachycardia on admission.  Patient
   with persistent oxygen requirement since her recent hospitalization
   despite no known primary lung disease. No evidence of pulmonary
   embolism on CTA.  No signs of hypercarbia on ABG.  Pulmonary edema
   likely due to cardiogenic causes as patient has moderate aortic
   stenosis.  Also on differential is PCP, [**Name10 (NameIs) 9614**] lung disease, ARDS
   secondary to sepsis.
   - suspect cardiogenic cause and will continue to diurese with lasix
   drip until UOP does not respond or she becomes hypotensive
   - goal -1L today
   - sputum cx if possible
   - nebulizers PRN
   RUQ pain: Pt groaned on palpation of RUQ today.  Will check LFTs and
   get KUB to eval for toxic megacolon in setting of C diff with low stool
   output.
   -f/u LFTs
   -f/u KUB read
   Hypotension:  Resolved although etiology unclear.  [**Name2 (NI) **] has been off
   pressors since 2 PM [**8-30**].  C. diff found to be positive, but does not
   explain CT chest findings of ground glass opacities.    Random cortisol
   of 24.6 argues against adrenal insufficiency.
   - s/p azithromycin (total 4 days) for atypical PNA coverage
   - f/u blood cultures
   - CVP goal [**7-18**], manage IVF using central venous O2 sat
   - influenza negative
   - given the occasional [**Last Name (LF) **], [**First Name3 (LF) **] send for a sputum culture if
   possible
   C. diff: Continue po vanc, day [**4-22**]
   - continue po vanc for 14 days
   - checking KUB for possible megacolon given RUQ pain and low stool
   output
   Acute Renal Failure:  Creatinine down to 1.9 from 2.1 yesterday
   afternoon.  Likely prerenal in the setting of what appears to be septic
   shock, low UOP.  ATN still remains in differential.  Diuresing with
   lasix drip despite renal failure to treat pulmonary edema and improve
   lung function.  Will continue diuresis until UOP decreased/not
   responding or hypotensive.
   - check pm lytes
   - monitor urine ouput and creatinine
   - renally dose medications
   - urine lytes consistent with pre-renal, likely component of decreased
   forward flow
   Anemia:  Known iron deficiency anemia with baseline hematocrit 30.  No
   active sites of bleeding.  Guaiac negative.
   - s/p 2 units of pRBCs [**8-31**] to improve hypotension and anemia
   - trend hematocrit
   - continue iron supplements daily (want to avoid constipating effects)
   Confusion:  Patient with waxing and [**Doctor Last Name 533**] mental status at home.
   Current exam consistent for delirium with primary aspect of
   disorientation with non-focal neurologic exam.  Patient with known
   occipital infarctions thought to be secondary to cardioembolic
   phenomenon.
   - continue home zyprexa and sertraline
   - Ativan PRN
   - monitor mental status
   - frequent orientation
   - optimize sleep wake cycle
   - limit medications that affect mental status as much as possible
   - if concern for hypercarbia with worsening altered mental status,
   consider BIPAP
   Atrial Fibrillation:  Rhythm currently in atrial fibrillation,
   controlled on dilt.  No chest pain or shortness of breath.
   - d/c digoxin yesterday given renal failure
   - off metoprolol
   - responding to po dilt (30mg QID)
   Diastolic Heart Failure: Patient diagnosed with acute on chronic
   diastolic heart failure during recent hospitalization although her
   response to diuretics was unclear and she does not have a history of
   hypotension.  Echocardiogram with preserved ejection fraction.  She is
   on bumetanide as an outpatient.
   - hold metoprolol
   Right lower extremity edema:  No DVT shown on ultrasound
   Cerebrovascular Disease:  s/p occipital stroke in [**2200-6-9**] thought to
   be secondary to cardioembolic disease.
   - continue plavix and start full dose aspirin
   - continue high dose statin
   - monitor neurologic exam
   FEN: Replete electrolytes, regular diet, will start tube feeds to
   maximize nutrition
   Prophylaxis: Subutaneous heparin, famotidine
   Access: peripherals, RIJ
   Code:  DNR/DNI (discussed with niece)
   Communication: Patient, neice [**Name (NI) 322**] [**Name (NI) 885**] [**Telephone/Fax (1) 8206**]
   Disposition: ICU care for now
   ICU Care
   Nutrition: Regular diet, TFs
   Glycemic Control:  monitoring
   Lines:
   Presep Catheter - [**2200-8-29**] 08:13 PM
   Arterial Line - [**2200-8-30**] 04:00 PM
   18 Gauge - [**2200-9-2**] 11:54 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:  n/a
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition: ICU

2200-09-03 12:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated net diuresis last PM.
   Remains on lasix drip.
   Somnulant, but able to arouse.
   Eating.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2200-9-2**] 09:36 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2200-9-2**] 11:50 PM
   Heparin Sodium (Prophylaxis) - [**2200-9-3**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-9-3**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 80 (78 - 95) bpm
   BP: 94/41(59) {94/41(59) - 136/76(278)} mmHg
   RR: 18 (18 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 60.2 kg (admission): 60 kg
   Height: 65 Inch
   CVP: 12 (11 - 17)mmHg
   Total In:
                                                                  1,572 mL
                                                                    502 mL
   PO:
                                                                    360 mL
   TF:
   IVF:
                                                                    952 mL
                                                                    382 mL
   Blood products:
   Total out:
                                                                  2,560 mL
                                                                  1,240 mL
   Urine:
                                                                  2,560 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -988 mL
                                                                   -738 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: 7.38/49/132/25/3
   PaO2 / FiO2: 367
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Somnulant.  Appears stated age
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: RUQ, No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.8 g/dL
   229 K/uL
   131 mg/dL
   1.9 mg/dL
   25 mEq/L
   3.6 mEq/L
   26 mg/dL
   101 mEq/L
   138 mEq/L
   29.5 %
   8.6 K/uL
         [image002.jpg]
                             [**2200-9-1**]  02:41 PM
                             [**2200-9-1**]  05:04 PM
                             [**2200-9-1**]  05:15 PM
                             [**2200-9-1**]  06:58 PM
                             [**2200-9-2**]  04:34 AM
                             [**2200-9-2**]  05:23 AM
                             [**2200-9-2**]  04:35 PM
                             [**2200-9-3**]  04:00 AM
                             [**2200-9-3**]  04:12 AM
                             [**2200-9-3**]  10:14 AM
   WBC
   8.1
   8.6
   Hct
   30.0
   29.5
   Plt
   210
   229
   Cr
   1.8
   2.0
   2.1
   1.9
   TCO2
   24
   25
   23
   22
   28
   30
   Glucose
   119
   117
   147
   131
   Other labs: PT / PTT / INR:14.2/30.9/1.2, CK / CKMB /
   Troponin-T:133/5/0.05, Differential-Neuts:87.3 %, Lymph:7.0 %, Mono:5.2
   %, Eos:0.4 %, Lactic Acid:1.1 mmol/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   86 yo F with hypoxic respiratory distress and sepsis (C. diff).
   HYPOXEMIA -- attributed to diffuse ground glass opacities --> pulmonary
   edema.  Less likely atypical pneumonia.  Plan continue supplimental
   oxygen, consider non-invasive ventilation, treat pulmonary edema.
   DIFFUSE PULMONARY INFILTRATES -- attributed to pulmonary edema
   primarily, presumed cardiogenic, (but may be component of
   non-cardiogenic, ARDS).  Doubt pneumonia (atypical).  Plan continue to
   treat as outlined, intially focus on cardiogenic pulmonary edema.
   RUQ TENDERNESS -- would check LFTs, amylase, lipase.  Consider RUQ US
   if LFTs abnormal.  Check KUB to assess bowel diameter (assess for toxic
   megacolon).
   CHF -- concern for cardiac decompensation in setting of sepsis.  Echo
   demonstrates perhaps worsening of Aortic stenosis (near critial on most
   recent) and LV function.  Cardiology to assess.
   MENTAL STATUS -- unclear, but possibly related to reversed sleep-wake
   cycle.
   SEPSIS -- Attributed to C. diff.  Responsed to resussitation.  Continue
   antimicrobials, including Flagyl.
   HYPOTENSION -- previously required levophed - remains off.  BP MAP
   acceptable.  Monitor.  Maintain MAP >60 mmHg.
   A-FIB -- good rate control on Diltiazem infusion --> now on PO.
   Tachycardia may have contributed to pulmonary edema.   Monitor.
   RENAL FAILURE -- acute, likely attributed to hypotensive insult in
   setting of sepsis.  Slowly improving.  Monitor uo, BUN, creatinine.
   AORTIC STENOSIS
 subcritical .  [**Month (only) 51**] be contributing to poor or
   compromised forward flow.  Repeat echo.
   C. DIFF ENTEROCOLITIS -- continue Flagyl.
   ANEMIA -- improved with PRBC transfusion.  Improved cardiac function as
   estimated by SvO2.
   CONFUSION --  attributed on last admission to occipital strokes, could
   be worse in the setting of acute illness
   ACUTE RENAL FAILURE -- evidence for prerenal azotemia, concern this
   represents poor or limited forward cardiac flow.   Would check cardiac
   echo to assess LV function.
   NUTRITIONAL SUPPORT
 initiate TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2200-8-29**] 08:13 PM
   Arterial Line - [**2200-8-30**] 04:00 PM
   18 Gauge - [**2200-9-2**] 11:54 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2200-09-04 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Goal diuresis: -1L. Negative 1.8L at 1730. Lasix turned off.
   -O2 requirement: high PCO2 49 -> O2 decreased to 36% on face mask. At
   night, ABG 7.43/43/65/29 with O2 sats 91-93. Increased back to FiO2
   ~99% on face mask.
    -Ativan 0.5mg x1 for agitation.
   -Pt later somewhat combative, but alert, conversational. Given 0.5mg
   morphine x1 with calming.
   Allergies:
   Penicillins
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2200-9-4**] 04:12 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-9-3**] 11:08 PM
   Morphine Sulfate - [**2200-9-4**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-9-4**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.2
   HR: 84 (78 - 92) bpm
   BP: 108/51(70) {93/40(57) - 139/63(90)} mmHg
   RR: 22 (18 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60.2 kg (admission): 60 kg
   Height: 65 Inch
    CVP: 8 (5 - 16)mmHg
   Total In:
                                                                    938 mL
                                                                    256 mL
   PO:
   TF:
                                                                     29 mL
                                                                    181 mL
   IVF:
                                                                    620 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  3,690 mL
                                                                    390 mL
   Urine:
                                                                  3,690 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,752 mL
                                                                   -134 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: 7.40/47/90.[**Numeric Identifier 126**]/26/2
   PaO2 / FiO2: 150
   Physical Examination
   General: Breathing heavily on high flow mask, difficult to understand,
   somnolent
   Lungs: mild bibasalar crackles, diffuse end expiratory wheezes
   CV: Tachycardic, s1 + s2, II/VI HSM at apex, no rubs or gallops
   although difficult to assess
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 1+ pulses, 1+ edema in right lower extremity,
   no cyanosis or edema
   Labs / Radiology
   237 K/uL
   10.9 g/dL
   127 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.5 mEq/L
   21 mg/dL
   101 mEq/L
   139 mEq/L
   32.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2200-9-2**]  05:23 AM
                             [**2200-9-2**]  04:35 PM
                             [**2200-9-3**]  04:00 AM
                             [**2200-9-3**]  04:12 AM
                             [**2200-9-3**]  10:14 AM
                             [**2200-9-3**]  04:11 PM
                             [**2200-9-3**]  04:28 PM
                             [**2200-9-3**]  10:36 PM
                             [**2200-9-4**]  04:00 AM
                             [**2200-9-4**]  04:29 AM
   WBC
   8.6
   7.6
   Hct
   29.5
   32.4
   Plt
   229
   237
   Cr
   2.1
   1.9
   1.5
   1.3
   TCO2
   22
   28
   30
   27
   29
   30
   Glucose
   147
   131
   104
   127
   Other labs: PT / PTT / INR:14.2/30.9/1.2, CK / CKMB /
   Troponin-T:133/5/0.05, ALT / AST:[**12-29**], Alk Phos / T Bili:51/0.4,
   Differential-Neuts:87.3 %, Lymph:7.0 %, Mono:5.2 %, Eos:0.4 %, Lactic
   Acid:0.7 mmol/L, LDH:255 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.9
   mg/dL
   .
   [**8-29**] Blood cx pending
   No new CXR
   Portable abdomen [**2200-9-3**] (my read): No bowel distention present.
   Assessment and Plan
   86 year old female with a past medical history of occipital stroke with
   memory difficulties and atrial fibrillation who presents from home with
   [**Month/Day/Year **] for one week found in the emergency room to be hypotensive to the
   80s sysotlic non-responsive to fluid challenge.
   Respiratory Distress:  Now on high flow mask with improving lung exam.
   She diuresed well with lasix drip overnight.  Echo basically unchanged
   from [**Month (only) 807**] without progression of valvular disease which suggests her
   pulmonary edema was prompted by her tachycardia on admission.  Patient
   with persistent oxygen requirement since her recent hospitalization
   despite no known primary lung disease. No evidence of pulmonary
   embolism on CTA.  No signs of hypercarbia on ABG.  Pulmonary edema
   likely due to cardiogenic causes as patient has moderate aortic
   stenosis.  Also on differential is PCP, [**Name10 (NameIs) 9614**] lung disease, ARDS
   secondary to sepsis.
   - suspect cardiogenic cause and will continue to diurese with lasix
   drip until UOP does not respond or she becomes hypotensive
   - goal -1L today
   - sputum cx if possible
   - nebulizers PRN
   RUQ pain: Pt groaned on palpation of RUQ yesterday.  Normal LFTs and
   non-distended KUB making toxic megacolon or cholecystitis unlikely.
   -f/u LFTs
   -f/u KUB read
   Hypotension:  Resolved although etiology unclear.  [**Name2 (NI) **] has been off
   pressors since 2 PM [**8-30**].  C. diff found to be positive, but does not
   explain CT chest findings of ground glass opacities.    Random cortisol
   of 24.6 argues against adrenal insufficiency.
   - s/p azithromycin (total 4 days) for atypical PNA coverage
   - f/u blood cultures
   - CVP goal [**7-18**], manage IVF using central venous O2 sat
   - influenza negative
   - given the occasional [**Last Name (LF) **], [**First Name3 (LF) **] send for a sputum culture if
   possible
   C. diff: Continue po vanc, day [**4-22**]
   - continue po vanc for 14 days
   - checking KUB for possible megacolon given RUQ pain and low stool
   output
   Acute Renal Failure:  Creatinine down to 1.9 from 2.1 yesterday
   afternoon.  Likely prerenal in the setting of what appears to be septic
   shock, low UOP.  ATN still remains in differential.  Diuresing with
   lasix drip despite renal failure to treat pulmonary edema and improve
   lung function.  Will continue diuresis until UOP decreased/not
   responding or hypotensive.
   - check pm lytes
   - monitor urine ouput and creatinine
   - renally dose medications
   - urine lytes consistent with pre-renal, likely component of decreased
   forward flow
   Anemia:  Known iron deficiency anemia with baseline hematocrit 30.  No
   active sites of bleeding.  Guaiac negative.
   - s/p 2 units of pRBCs [**8-31**] to improve hypotension and anemia
   - trend hematocrit
   - continue iron supplements daily (want to avoid constipating effects)
   Confusion:  Patient with waxing and [**Doctor Last Name 533**] mental status at home.
   Current exam consistent for delirium with primary aspect of
   disorientation with non-focal neurologic exam.  Patient with known
   occipital infarctions thought to be secondary to cardioembolic
   phenomenon.
   - continue home zyprexa and sertraline
   - Ativan PRN
   - monitor mental status
   - frequent orientation
   - optimize sleep wake cycle
   - limit medications that affect mental status as much as possible
   - if concern for hypercarbia with worsening altered mental status,
   consider BIPAP
   Atrial Fibrillation:  Rhythm currently in atrial fibrillation,
   controlled on dilt.  No chest pain or shortness of breath.
   - d/c digoxin yesterday given renal failure
   - off metoprolol
   - responding to po dilt (30mg QID)
   Diastolic Heart Failure: Patient diagnosed with acute on chronic
   diastolic heart failure during recent hospitalization although her
   response to diuretics was unclear and she does not have a history of
   hypotension.  Echocardiogram with preserved ejection fraction.  She is
   on bumetanide as an outpatient.
   - hold metoprolol
   Right lower extremity edema:  No DVT shown on ultrasound
   Cerebrovascular Disease:  s/p occipital stroke in [**2200-6-9**] thought to
   be secondary to cardioembolic disease.
   - continue plavix and start full dose aspirin
   - continue high dose statin
   - monitor neurologic exam
   FEN: Replete electrolytes, regular diet, will start tube feeds to
   maximize nutrition
   Prophylaxis: Subutaneous heparin, famotidine
   Access: peripherals, RIJ
   Code:  DNR/DNI (discussed with niece)
   Communication: Patient, neice [**Name (NI) 322**] [**Name (NI) 885**] [**Telephone/Fax (1) 8206**]
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2200-9-3**] 09:09 PM 30 mL/hour
   Glycemic Control:  monitoring
   Lines:
   Presep Catheter - [**2200-8-29**] 08:13 PM
   Arterial Line - [**2200-8-30**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:  n/a
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition: ICU

2200-09-04 11:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overall, improved respiratory status.
   Much more alert today, sitting up in bed, eyes open, verbalizing,
   appropriate.
   States to be dyspneic, but appears much more comfortable than prior
   days.
   Denies abd pain.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2200-9-4**] 04:12 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-9-3**] 11:08 PM
   Morphine Sulfate - [**2200-9-4**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-9-4**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.9
C (96.6
   HR: 79 (78 - 92) bpm
   BP: 112/53(72) {94/40(57) - 139/63(90)} mmHg
   RR: 21 (20 - 27) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60.2 kg (admission): 60 kg
   Height: 65 Inch
   CVP: 6 (5 - 16)mmHg
   Total In:
                                                                    938 mL
                                                                    567 mL
   PO:
   TF:
                                                                     29 mL
                                                                    316 mL
   IVF:
                                                                    620 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  3,690 mL
                                                                    490 mL
   Urine:
                                                                  3,690 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,752 mL
                                                                     77 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: 7.40/47/90.[**Numeric Identifier 126**]/26/2
   PaO2 / FiO2: 225
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Appears stated age
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, No(t) Distant, No(t) Loud, No(t) Widely
   split , No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.9 g/dL
   237 K/uL
   127 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.5 mEq/L
   21 mg/dL
   101 mEq/L
   139 mEq/L
   32.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2200-9-2**]  05:23 AM
                             [**2200-9-2**]  04:35 PM
                             [**2200-9-3**]  04:00 AM
                             [**2200-9-3**]  04:12 AM
                             [**2200-9-3**]  10:14 AM
                             [**2200-9-3**]  04:11 PM
                             [**2200-9-3**]  04:28 PM
                             [**2200-9-3**]  10:36 PM
                             [**2200-9-4**]  04:00 AM
                             [**2200-9-4**]  04:29 AM
   WBC
   8.6
   7.6
   Hct
   29.5
   32.4
   Plt
   229
   237
   Cr
   2.1
   1.9
   1.5
   1.3
   TCO2
   22
   28
   30
   27
   29
   30
   Glucose
   147
   131
   104
   127
   Other labs: PT / PTT / INR:14.2/30.9/1.2, CK / CKMB /
   Troponin-T:133/5/0.05, ALT / AST:[**12-29**], Alk Phos / T Bili:51/0.4,
   Differential-Neuts:87.3 %, Lymph:7.0 %, Mono:5.2 %, Eos:0.4 %, Lactic
   Acid:0.7 mmol/L, LDH:255 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   86 yo F with hypoxic respiratory distress and sepsis (C. diff).
   HYPOXEMIA -- attributed ato pulmonary edema.  Plan continue
   supplimental oxygen, consider non-invasive ventilation, treat pulmonary
   edema (net diurese).
   DIFFUSE PULMONARY INFILTRATES -- attributed to pulmonary edema
   primarily, presumed cardiogenic.  Doubt pneumonia (atypical).  Plan
   continue to treat as outlined, intially focus on cardiogenic pulmonary
   edema.
   RUQ TENDERNESS -- would check LFTs, amylase, lipase.  Consider RUQ US
   if LFTs abnormal.  Check KUB to assess bowel diameter (assess for toxic
   megacolon).
   CHF -- concern for cardiac decompensation in setting of sepsis.  Echo
   demonstrates perhaps worsening of Aortic stenosis (near critial on most
   recent) and LV function.  Cardiology to assess.
   MENTAL STATUS -- unclear, but possibly related to reversed sleep-wake
   cycle.
   SEPSIS -- Attributed to C. diff.  Responsed to resussitation.  Continue
   antimicrobials, including Flagyl.
   HYPOTENSION -- previously required levophed - remains off.  BP MAP
   acceptable.  Monitor.  Maintain MAP >60 mmHg.
   A-FIB -- good rate control on Diltiazem infusion --> now on PO.
   Tachycardia may have contributed to pulmonary edema.   Monitor.
   RENAL FAILURE -- acute, likely attributed to hypotensive insult in
   setting of sepsis.  Slowly improving.  Monitor uo, BUN, creatinine.
   AORTIC STENOSIS
 subcritical .  [**Month (only) 51**] be contributing to poor or
   compromised forward flow.  Repeat echo.
   C. DIFF ENTEROCOLITIS -- continue Flagyl.
   ANEMIA -- improved with PRBC transfusion.  Improved cardiac function as
   estimated by SvO2.
   CONFUSION --  attributed on last admission to occipital strokes, could
   be worse in the setting of acute illness
   ACUTE RENAL FAILURE -- evidence for prerenal azotemia, concern this
   represents poor or limited forward cardiac flow.   Would check cardiac
   echo to assess LV function.
   NUTRITIONAL SUPPORT
 Continue TF.  Speech and swallow evaluation.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2200-9-3**] 09:09 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2200-8-29**] 08:13 PM
   Arterial Line - [**2200-8-30**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2200-09-05 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - received Ativan 0.5mg via NG during morning rounds for agitation and
   0.5mg morphine IV in evening
   - diuresed well with lasix drip; Cr down to 1.2 on pm lytes
   - lasix drip turned off around 1:30am
   Allergies:
   Penicillins
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2200-9-4**] 04:03 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2200-9-4**] 08:57 PM
   Heparin Sodium (Prophylaxis) - [**2200-9-4**] 11:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-9-5**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 83 (78 - 102) bpm
   BP: 120/51(76) {99/44(64) - 134/73(95)} mmHg
   RR: 26 (17 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.2 kg (admission): 60 kg
   Height: 65 Inch
    CVP: 8 (6 - 15)mmHg
   Total In:
                                                                  1,706 mL
                                                                    470 mL
   PO:
                                                                    120 mL
   TF:
                                                                    946 mL
                                                                    350 mL
   IVF:
                                                                    380 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  3,355 mL
                                                                  1,235 mL
   Urine:
                                                                  3,055 mL
                                                                  1,235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,649 mL
                                                                   -765 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///34/
   Physical Examination
   General: Breathing heavily on high flow mask, difficult to understand,
   somnolent
   Lungs: mild bibasalar crackles, diffuse end expiratory wheezes
   CV: Tachycardic, s1 + s2, II/VI HSM at apex, no rubs or gallops
   although difficult to assess
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 1+ pulses, 1+ edema in right lower extremity,
   no cyanosis or edema
   Labs / Radiology
   292 K/uL
   10.9 g/dL
   161 mg/dL
   1.1 mg/dL
   34 mEq/L
   3.6 mEq/L
   20 mg/dL
   97 mEq/L
   138 mEq/L
   32.7 %
   9.9 K/uL
        [image002.jpg]
                             [**2200-9-3**]  04:00 AM
                             [**2200-9-3**]  04:12 AM
                             [**2200-9-3**]  10:14 AM
                             [**2200-9-3**]  04:11 PM
                             [**2200-9-3**]  04:28 PM
                             [**2200-9-3**]  10:36 PM
                             [**2200-9-4**]  04:00 AM
                             [**2200-9-4**]  04:29 AM
                             [**2200-9-4**]  04:58 PM
                             [**2200-9-5**]  05:02 AM
   WBC
   8.6
   7.6
   9.9
   Hct
   29.5
   32.4
   32.7
   Plt
   [**Telephone/Fax (3) 9684**]
   Cr
   1.9
   1.5
   1.3
   1.2
   1.1
   TCO2
   28
   30
   27
   29
   30
   Glucose
   131
   104
   127
   155
   161
   Other labs: PT / PTT / INR:14.2/30.9/1.2, CK / CKMB /
   Troponin-T:133/5/0.05, ALT / AST:[**12-29**], Alk Phos / T Bili:51/0.4,
   Differential-Neuts:87.3 %, Lymph:7.0 %, Mono:5.2 %, Eos:0.4 %, Lactic
   Acid:0.7 mmol/L, LDH:255 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.5
   mg/dL
   Blood Culture ([**8-29**])
 negative
   Portable abdomen ([**9-3**]) No bowel distention present.
   Assessment and Plan
 PULMONARY EDEMA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 .H/O ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOXEMIA
 ALTERATION IN NUTRITION
   86 year old female with a past medical history of occipital stroke with
   memory difficulties and atrial fibrillation who presents from home with
   [**Month/Year (2) **] for one week found in the emergency room to be hypotensive to the
   80s sysotlic non-responsive to fluid challenge.
   Respiratory Distress:  Now on high flow mask with improving lung exam.
   She diuresed well with lasix drip yesterday.  Echo basically unchanged
   from [**Month (only) 807**] without progression of valvular disease which suggests her
   pulmonary edema was prompted by her tachycardia on admission.  Patient
   with persistent oxygen requirement since her recent hospitalization
   despite no known primary lung disease. No evidence of pulmonary
   embolism on CTA.  No signs of hypercarbia on ABG.  Pulmonary edema
   likely due to cardiogenic causes as patient has moderate aortic
   stenosis.  Also on differential is PCP, [**Name10 (NameIs) 9614**] lung disease, ARDS
   secondary to sepsis.
   - suspect cardiogenic cause and will continue to diurese with lasix
   drip until UOP does not respond or she becomes hypotensive
   - goal -1L today
   - sputum cx if possible
   - nebulizers PRN
   RUQ pain: Resolved with nml LFTs and nml KUB.
   Hypotension:  Resolved although etiology unclear.  [**Name2 (NI) **] has been off
   pressors since 2 PM [**8-30**].  C. diff found to be positive, but does not
   explain CT chest findings of ground glass opacities.    Random cortisol
   of 24.6 argues against adrenal insufficiency.
   - s/p azithromycin (total 4 days) for atypical PNA coverage
   - f/u blood cultures
   - CVP goal [**7-18**], manage IVF using central venous O2 sat
   - influenza negative
   - given the occasional [**Last Name (LF) **], [**First Name3 (LF) **] send for a sputum culture if
   possible
   C. diff: Continue po vanc, day [**5-22**]
   - continue po vanc for 14 days
   Acute Renal Failure:  Creatinine improving.  Likely prerenal in the
   setting of what appears to be septic shock, low UOP.  ATN still remains
   in differential.  Diuresing with lasix drip despite renal failure to
   treat pulmonary edema and improve lung function.  Will continue
   diuresis until UOP decreased/not responding or hypotensive.
   - check pm lytes
   - monitor urine ouput and creatinine
   - renally dose medications
   - urine lytes consistent with pre-renal, likely component of decreased
   forward flow
   Anemia:  Known iron deficiency anemia with baseline hematocrit 30.  No
   active sites of bleeding.  Guaiac negative.
   - s/p 2 units of pRBCs [**8-31**] to improve hypotension and anemia
   - trend hematocrit
   - continue iron supplements daily (want to avoid constipating effects)
   Confusion:  Patient with waxing and [**Doctor Last Name 533**] mental status at home.
   Current exam consistent for delirium with primary aspect of
   disorientation with non-focal neurologic exam.  Patient with known
   occipital infarctions thought to be secondary to cardioembolic
   phenomenon.
   - continue home zyprexa and sertraline
   - Ativan PRN via NG
   - monitor mental status
   - frequent orientation
   - optimize sleep wake cycle
   - limit medications that affect mental status as much as possible
   - if concern for hypercarbia with worsening altered mental status,
   consider BIPAP
   Atrial Fibrillation:  Rhythm currently in atrial fibrillation,
   controlled on dilt.  No chest pain or shortness of breath.
   - d/c digoxin yesterday given renal failure
   - off metoprolol
   - responding to po dilt (30mg QID)
   Diastolic Heart Failure: Patient diagnosed with acute on chronic
   diastolic heart failure during recent hospitalization although her
   response to diuretics was unclear and she does not have a history of
   hypotension.  Echocardiogram with preserved ejection fraction.  She is
   on bumetanide as an outpatient.
   - hold metoprolol
   Right lower extremity edema:  No DVT shown on ultrasound
   Cerebrovascular Disease:  s/p occipital stroke in [**2200-6-9**] thought to
   be secondary to cardioembolic disease.
   - continue plavix and start full dose aspirin
   - continue high dose statin
   - monitor neurologic exam
   FEN: Replete electrolytes, tube feeds to maximize nutrition, speech and
   swallow consult
   Prophylaxis: Subutaneous heparin, famotidine
   Access: peripherals, RIJ
   Code:  DNR/DNI (discussed with niece)
   Communication: Patient, niece [**Name (NI) 322**] [**Name (NI) 885**] [**Telephone/Fax (1) 8206**]
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2200-9-3**] 09:09 PM 30 mL/hour
   Glycemic Control:  monitoring
   Lines:
   Presep Catheter - [**2200-8-29**] 08:13 PM
   Arterial Line - [**2200-8-30**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:  n/a
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition: ICU

2200-09-05 11:36:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues to experience some tachypnea.
   Remains on supplimental oxygen.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2200-9-4**] 04:03 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2200-9-4**] 08:57 PM
   Heparin Sodium (Prophylaxis) - [**2200-9-4**] 11:50 PM
   Famotidine (Pepcid) - [**2200-9-5**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-9-5**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.6
C (96.1
   HR: 91 (82 - 102) bpm
   BP: 143/63(94) {103/44(64) - 143/73(95)} mmHg
   RR: 24 (17 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.2 kg (admission): 60 kg
   Height: 65 Inch
   CVP: 9 (6 - 15)mmHg
   Total In:
                                                                  1,706 mL
                                                                    861 mL
   PO:
                                                                    120 mL
   TF:
                                                                    946 mL
                                                                    567 mL
   IVF:
                                                                    380 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  3,355 mL
                                                                  1,420 mL
   Urine:
                                                                  3,055 mL
                                                                  1,420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,649 mL
                                                                   -559 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///34/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic,
   Appears stated age
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox2, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.9 g/dL
   292 K/uL
   161 mg/dL
   1.1 mg/dL
   34 mEq/L
   3.6 mEq/L
   20 mg/dL
   97 mEq/L
   138 mEq/L
   32.7 %
   9.9 K/uL
        [image002.jpg]
                             [**2200-9-3**]  04:00 AM
                             [**2200-9-3**]  04:12 AM
                             [**2200-9-3**]  10:14 AM
                             [**2200-9-3**]  04:11 PM
                             [**2200-9-3**]  04:28 PM
                             [**2200-9-3**]  10:36 PM
                             [**2200-9-4**]  04:00 AM
                             [**2200-9-4**]  04:29 AM
                             [**2200-9-4**]  04:58 PM
                             [**2200-9-5**]  05:02 AM
   WBC
   8.6
   7.6
   9.9
   Hct
   29.5
   32.4
   32.7
   Plt
   [**Telephone/Fax (3) 9684**]
   Cr
   1.9
   1.5
   1.3
   1.2
   1.1
   TCO2
   28
   30
   27
   29
   30
   Glucose
   131
   104
   127
   155
   161
   Other labs: PT / PTT / INR:14.2/30.9/1.2, CK / CKMB /
   Troponin-T:133/5/0.05, ALT / AST:[**12-29**], Alk Phos / T Bili:51/0.4,
   Differential-Neuts:87.3 %, Lymph:7.0 %, Mono:5.2 %, Eos:0.4 %, Lactic
   Acid:0.7 mmol/L, LDH:255 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   86 yo F with hypoxic respiratory distress and sepsis (C. diff).
   HYPOXEMIA -- attributed ato pulmonary edema.  Plan continue
   supplimental oxygen, consider non-invasive ventilation, treat pulmonary
   edema (net diurese).
   DIFFUSE PULMONARY INFILTRATES -- attributed to pulmonary edema
   primarily, presumed cardiogenic.  Doubt pneumonia (atypical).  Plan
   continue to treat as outlined, intially focus on cardiogenic pulmonary
   edema.
   CHF -- concern for cardiac decompensation in setting of sepsis.  Echo
   demonstrates perhaps worsening of Aortic stenosis (near critial on most
   recent) and LV function.  Cardiology to assess.
   MENTAL STATUS -- Somewhat improve.  Possibly related to reversed
   sleep-wake cycle.
   SEPSIS -- Attributed to C. diff.  Responsed to resussitation.  Continue
   antimicrobials, including Flagyl.
   HYPOTENSION -- previously required levophed - remains off.  BP MAP
   acceptable.  Monitor.  Maintain MAP >60 mmHg.
   A-FIB -- good rate control on Diltiazem infusion --> now on PO.
   Tachycardia may have contributed to pulmonary edema.   Monitor.
   RENAL FAILURE -- acute, likely attributed to hypotensive insult in
   setting of sepsis.  Now creatinine at baseline, with good response to
   lasix.  Monitor uo, BUN, creatinine.
   AORTIC STENOSIS
 subcritical .  [**Month (only) 51**] be contributing to poor or
   compromised forward flow.  Repeat echo.
   C. DIFF ENTEROCOLITIS -- continue Flagyl.
   ANEMIA -- improved with PRBC transfusion.  Improved cardiac function as
   estimated by SvO2.
   CONFUSION --  attributed on last admission to occipital strokes, could
   be worse in the setting of acute illness
   ACUTE RENAL FAILURE -- evidence for prerenal azotemia, concern this
   represents poor or limited forward cardiac flow.   Would check cardiac
   echo to assess LV function.
   NUTRITIONAL SUPPORT
 Continue TF.  Speech and swallow evaluation.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2200-9-4**] 11:16 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2200-8-29**] 08:13 PM
   Arterial Line - [**2200-8-30**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2200-09-06 12:59:00 Physician Attending Progress Note
Chief Complaint: hypoxemia/pulm edema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86 yo F with acute pulmonary edema and sepsis (C. diff).
   24 Hour Events:
   agitated last night--olanzipine
   achieved neg 2L fluid goal
   History obtained from Patient, ho
   Allergies:
   Penicillins
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2200-9-4**] 04:03 PM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2200-9-5**] 11:30 PM
   Famotidine (Pepcid) - [**2200-9-6**] 08:25 AM
   Heparin Sodium (Prophylaxis) - [**2200-9-6**] 08:25 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-9-6**] 12:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 84 (78 - 98) bpm
   BP: 89/32(47) {88/32(47) - 117/92(96)} mmHg
   RR: 27 (17 - 35) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 56.5 kg (admission): 60 kg
   Height: 65 Inch
   CVP: 7 (7 - 197)mmHg
   Total In:
                                                                  1,786 mL
                                                                    918 mL
   PO:
   TF:
                                                                  1,114 mL
                                                                    619 mL
   IVF:
                                                                    382 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                  3,935 mL
                                                                  1,245 mL
   Urine:
                                                                  3,935 mL
                                                                  1,245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,149 mL
                                                                   -327 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///36/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.7 g/dL
   274 K/uL
   180 mg/dL
   1.1 mg/dL
   36 mEq/L
   4.0 mEq/L
   21 mg/dL
   96 mEq/L
   143 mEq/L
   36.3 %
   10.0 K/uL
        [image002.jpg]
                             [**2200-9-3**]  10:14 AM
                             [**2200-9-3**]  04:11 PM
                             [**2200-9-3**]  04:28 PM
                             [**2200-9-3**]  10:36 PM
                             [**2200-9-4**]  04:00 AM
                             [**2200-9-4**]  04:29 AM
                             [**2200-9-4**]  04:58 PM
                             [**2200-9-5**]  05:02 AM
                             [**2200-9-5**]  05:42 PM
                             [**2200-9-6**]  04:08 AM
   WBC
   7.6
   9.9
   10.0
   Hct
   32.4
   32.7
   36.3
   Plt
   237
   292
   274
   Cr
   1.5
   1.3
   1.2
   1.1
   1.0
   1.1
   TCO2
   30
   27
   29
   30
   Glucose
   104
   127
   155
   161
   164
   180
   Other labs: PT / PTT / INR:14.2/30.9/1.2, CK / CKMB /
   Troponin-T:133/5/0.05, ALT / AST:[**12-29**], Alk Phos / T Bili:51/0.4,
   Differential-Neuts:87.3 %, Lymph:7.0 %, Mono:5.2 %, Eos:0.4 %, Lactic
   Acid:0.7 mmol/L, LDH:255 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.1
   mg/dL
   Imaging: no imaging today
   Microbiology: bl cx [**8-29**]-neg
   Assessment and Plan
 PULMONARY EDEMA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 .H/O ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOXEMIA
 ALTERATION IN NUTRITION
   86 yo F with possible sepsis from c diff infection, respiratory
   distress in setting of acute pulmonary edema and rapid a-fib with rvr
   HYPOXEMIA/pulmonary infiltrates
 attributed to pulmonary edema.  Much
   improved with diuresis.  Wean O2 as tolerated.
   CHF/pulmonary edema
 Responded well to lasix drip.  Now with
   contraction alkalosis.  Will hold on addiitonal diuresis and allow to
   requilibriate.  Ocnsider diamox. Echo demonstrates perhaps worsening of
   subcritical Aortic stenosis (near critial on most recent) and LV
   function.  Cardiology input appreciated.
   Delirium/agitation
waxing and [**Doctor Last Name 533**] at home, now with ICU delirium
   liekly confounded by reversed sleep-wake cycle.  Continue olanzepine,
   reorient, minimze lines, tubes, restraints
   SEPSIS -- Attributed to C. diff.  Responsed to resussitation.  Continue
   PO vanco treatment
   HYPOTENSION -- previously required levophed - remains off.  BP MAP
   acceptable.  Monitor.  Maintain MAP >60 mmHg.
   A-FIB -- good rate control on PO Diltiazem.
   RENAL FAILURE -- acute, likely attributed to hypotensive insult in
   setting of sepsis.  Now creatinine at baseline, with good response to
   lasix.  Monitor uo, BUN, creatinine.
   C. DIFF ENTEROCOLITIS -- continue PO vanco day 7 (complete 14 day
   course)
   ANEMIA -- improved with PRBC transfusion.  Improved cardiac function as
   estimated by SvO2.
   CONFUSION --  attributed on last admission to occipital strokes, could
   be worse in the setting of acute illness
   ICU Care
   Nutrition:  continue TFs pending swallow eval.
   Fibersource HN (Full) - [**2200-9-5**] 07:13 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2200-8-29**] 08:13 PM
transition to PIvs
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU for probable call out later today
   Total time spent: 35 minutes